US05731127
Methacryloyloxyethylisocyanate and 4-aminophenol were added to dioxane solvent, and stirred for 2 hours to obtain 2-(N'-(4-hydroxyphenyl)ureido)ethylmethacrylate (hereinafter referred to simply as "Compound 1").

reactant | Methacryloyloxyethylisocyanate | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
reactant | 4-aminophenol | NC1=CC=C(C=C1)O | C6H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(N'-(4-hydroxyphenyl)ureido)ethylmethacrylate | OC1=CC=C(C=C1)NC(NCCOC(C(=C)C)=O)=O | C13H16N2O4
